.title THD compute
.include mymodel.cir
.include include.cir

RLOAD OUT 0 10k
Vpwr SUP 0 51 
Vin1  IN 0 SIN(0 0.1 1k)

.control
  set noaskquit
  op
  ****************************************
  * THD RUN (1 kHz)
  ****************************************

  tran 10u 200m 150m 1u
  wrdata thd_time.csv time v(out)
  quit
.endc
.end

